US05965591
3-(2-Aminoethylthio)-5-fluoro-1,2-benzisoxazole hydrochloride
To a solution of 3-chloro-5-fluoro-1,2-benzisoxazole (0.83 g) in dimethylformamide (8 ml) was added 2-t-butoxycarbonylaminoethanethiol (0.86 g) and potassium carbonate (0.67 g) with stirring under nitrogen atmosphere, and the mixture was then stirred at 80° C. for 3 hours. The reaction mixture was poured into ice water, extracted with ethyl acetate and the combined extracts were washed with brine and dried over anhydrous magnesium sulphate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography, to give the title compound (1.21 g, 80%) as a colorless powder.

reactant | 3-chloro-5-fluoro-1,2-benzisoxazole | 0.83 g | ClC1=NOC2=C1C=C(C=C2)F | C7H3ClFNO
reactant | 2-t-butoxycarbonylaminoethanethiol | 0.86 g | C(C)(C)(C)OC(=O)NCCS | C7H15NO2S
reactant | potassium carbonate | 0.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 3-(2-Aminoethylthio)-5-fluoro-1,2-benzisoxazole hydrochloride | 1.21 g, 80% | Cl.NCCSC1=NOC2=C1C=C(C=C2)F | InChI=1S/C9H9FN2OS.ClH/c10-6-1-2-8-7(5-6)9(12-13-8)14-4-3-11;/h1-2,5H,3-4,11H2;1H
